US05356918
(4R,5R)-N-(2-Nitrooxyethyl)-2-oxo-5-methylthiazolidine-4-carboxamide (Compound No. 1-5)
1.33 ml of triethylamine and 0.36 ml of diethyl cyanophosphonate were added, whilst ice-cooling and stirring, to a suspension of 322 mg of (4R,5R)-5-methyl2-oxothiazolidine-4-carboxylic acid and 406 mg of N-(2-nitrooxyethyl)amine nitrate in 40 ml of dry tetrahydrofuran, and the resulting mixture was stirred at room temperature for 1 hour and 25 minutes. At the end of this time, the solvent was removed by distillation under reduced pressure, and the residue was mixed with ethyl acetate. The resulting mixture was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the residual yellow oil thus obtained was purified by column chromatography through silica gel, using a 20:1 by volume mixture of methylene chloride and methanol as the eluent, to give 324 mg of the title compound as a pale yellow oil.

reactant | triethylamine | 1.33 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 0.36 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | (4R,5R)-5-methyl2-oxothiazolidine-4-carboxylic acid | 322 mg | C[C@@H]1[C@H](NC(S1)=O)C(=O)O | C5H7NO3S
reactant | N-(2-nitrooxyethyl)amine nitrate | 406 mg | [N+](=O)(O)[O-].[N+](=O)([O-])OCCN
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (4R,5R)-N-(2-Nitrooxyethyl)-2-oxo-5-methylthiazolidine-4-carboxamide | 324 mg | [N+](=O)([O-])OCCNC(=O)[C@H]1NC(S[C@@H]1C)=O | C7H11N3O5S
